US05134152
(2R*,3S*)-2-(2,4-Dichlorophenyl)-4-(methanesulfonyloxy)-3-methyl-1-(1H-1,2,4-triazol-1-yl)-2-butanol
61 mg (0.61 mmole) of triethylamine and 64 mg (0.56 mmole) of methanesulfonyl chloride were added at 0° C., whilst stirring, to a solution of 74 mg (0.231 mmole) of (2S*,3R*)-3-(2,4-dichlorophenyl)-2-methyl-4-(1H-1,2,4-triazol-1-yl)-1,3-butanediol in 2 ml of methylene chloride. Fifteen minutes later the reaction mixture was mixed with a dilute aqueous solution of sodium hydrogencarbonate and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, and the solvent was removed by evaporation under reduced pressure, to give 92 mg of a crude product.

reactant | triethylamine | 0.61 mmole, 61 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.56 mmole, 64 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | (2S*,3R*)-3-(2,4-dichlorophenyl)-2-methyl-4-(1H-1,2,4-triazol-1-yl)-1,3-butanediol | 0.231 mmole, 74 mg | ClC1=C(C=CC(=C1)Cl)[C@]([C@H](CO)C)(CN1N=CN=C1)O | C13H15Cl2N3O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | (2R*,3S*)-2-(2,4-Dichlorophenyl)-4-(methanesulfonyloxy)-3-methyl-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 92 mg | ClC1=C(C=CC(=C1)Cl)[C@@](CN1N=CN=C1)([C@H](COS(=O)(=O)C)C)O | C14H17Cl2N3O4S
